US07696231B2
4-tert-Butyl-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene) benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-tert-butylbenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 168 mg of the title compound (75%) as a yellow solid in 99.8% purity by HPLC (Rt: 6.65, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-tert-butylbenzohydrazide | C(C)(C)(C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-tert-Butyl-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene) benzohydrazide | 168 mg, 75% | C(C)(C)(C)C1=CC=C(C(=O)NN=C2C(NC3=CC=C(C=C23)I)=O)C=C1 | C19H18IN3O2
